US06136821
F. 6-(4-carboxyphenyl)-8-(4-benzo[c]furazanyl)-1,7-napthyridine
To a solution of 6-(4-carboxyphenyl)-8-bromo-1,7-naphthyridine (100 mg, 0.304 mmol) in DMF (2.5 ml) is added 4-benzo[c]furazanyl boronic acid (60 mg, 0.36 mmol), bis(dibenzylidenacetone) palladium (7 mg, 0.0122 mmol), tri-o-tolylphosphine (7.4 mg, 0.024 mmol) and aqueous Na2CO3 (0.9 ml, 2N). The reaction mixture is stirred at 80° for 2 h. The hot solution is filtred through cellit and the solution evaporated to dryness. The residue is stirred in ethyl acetate (20 ml), the suspension is filtered and the organic solvent is removed. The residue is dissolved in hot DMF (7 ml) and the crude product is precipitated by carefully adding aqueous HCl (2N, 1 ml). The crude product in recrystallized from hot DMF to yield the title compound (68 mg). MH+369; Melting point >300° C. M+H=369. Retention time HPLC=10.40 min (column: LiChroCart 125-4, Supersphere 60 RP-select B, 40°; eluent: acetonitril-water (0.1% TFA)=45:55; 1 ml/min; detection at 254 nm).

reactant | 6-(4-carboxyphenyl)-8-bromo-1,7-naphthyridine | 0.304 mmol, 100 mg | C(=O)(O)C1=CC=C(C=C1)C=1C=C2C=CC=NC2=C(N1)Br | C15H9BrN2O2
reactant | 4-benzo[c]furazanyl boronic acid | 0.36 mmol, 60 mg | N=1ON=C2C1C=CC=C2B(O)O | C6H5BN2O3
reactant | tri-o-tolylphosphine | 0.024 mmol, 7.4 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | Na2CO3 | 2N, 0.9 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
catalyst | bis(dibenzylidenacetone) palladium | 0.0122 mmol, 7 mg | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 6-(4-carboxyphenyl)-8-(4-benzo[c]furazanyl)-1,7-napthyridine | 68 mg | C(=O)(O)C1=CC=C(C=C1)C=1C=C2C=CC=NC2=C(N1)C1=CC=CC2=NON=C21 | C21H12N4O3
